US05846982
4-hydroxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 0.30 gm (1.1 mMol) 4-cyclopropylmethoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole in 10 mL acetonitrile were added 0.64 mL (4.4 mMol) trimethylsilyliodide and the reaction mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dilute ammonium hydroxide and ethyl acetate. The phases were separated and the aqueous phase extracted well with ethyl acetate. The organics were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to radial chromatography, eluting with 15% methanol in dichloromethane containing a trace of ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 0.035 gm (14%) of the title compound as a light tan solid.

reactant | 4-cyclopropylmethoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.1 mMol, 0.30 gm | C1(CC1)COC1=C2C(=CNC2=CC=C1)C=1CCNCC1 | C17H20N2O
reactant | trimethylsilyliodide | 4.4 mMol, 0.64 mL | C[Si](C)(C)I | C3H9ISi
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-hydroxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.035 gm, 14% | OC1=C2C(=CNC2=CC=C1)C=1CCNCC1 | C13H14N2O
